US05332739
Synthesis of 1,3-dimethyl-6-[4-(3-oxo-3-phenylpropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 90)
In 15 ml of dioxane were dissolved 1.68 g of 3-chloropropiophenone, 2.24 g of 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione and 1.6 ml of triethylamine, and the solution was then stirred at 80° C. for 1 hour. Next, the solvent was distilled off, and the resultant residue was dissolved in chloroform, washed with water, and then concentrated to dryness. The residue was further recrystallized from methanol, thereby obtaining 2.58 g of the crystals of 1,3-dimethyl-6-[4-(3-oxo-3-phenylpropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 3-chloropropiophenone | 1.68 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | 1,3-dimethyl-6-(1-piperazinyl)-2,4(1H,3H)-pyrimidinedione | 2.24 g | CN1C(N(C(C=C1N1CCNCC1)=O)C)=O | C10H16N4O2
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl-6-[4-(3-oxo-3-phenylpropyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 2.58 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCC(C1=CC=CC=C1)=O)=O)C)=O | InChI=1S/C19H24N4O3.ClH/c1-20-17(14-18(25)21(2)19(20)26)23-12-10-22(11-13-23)9-8-16(24)15-6-4-3-5-7-15;/h3-7,14H,8-13H2,1-2H3;1H
